US07906546B2
To a stirred solution of 1.26 g (5.9 mmol) of methyl phenylsulfonylacetate in 20 mL of MeOH at 0° C., 0.22 mL (1.17 mmol, 0.2 eq) of a solution of sodium methoxide (5.4 M in MeOH) were added. After 15 min, 0.53 g (6.5 mmol, 1.1 eq) of cyclopent-2-enone were added. The reaction mixture was allowed to reached RT within 4 hours, diluted with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel with heptane/EtOAc 1:1 yielded 1.34 g (77%) of benzenesulfonyl-(3-oxo-cyclopentyl)-acetic acid methyl ester as a racemic mixture of diastereomers, colorless oil, MS: 297 (MH+.

reactant | methyl phenylsulfonylacetate | 5.9 mmol, 1.26 g | C1(=CC=CC=C1)S(=O)(=O)CC(=O)OC | C9H10O4S
reactant | sodium methoxide | 5.4 M | C[O-].[Na+]
reactant | cyclopent-2-enone | 6.5 mmol, 0.53 g, 1.1 eq | C1(C=CCC1)=O | C5H6O
solvent | MeOH | 20 mL | CO | CH4O
solvent | NH4Cl | [NH4+].[Cl-]
product | benzenesulfonyl-(3-oxo-cyclopentyl)-acetic acid methyl ester | 1.34 g, 77% | COC(C(C1CC(CC1)=O)S(=O)(=O)C1=CC=CC=C1)=O | C14H16O5S
